US07671043B2
3B. 5-Chloro-2-(methylsulfonyl)pyrimidine
5-Chloro-2-(methylsulfonyl)pyrimidine-4-carboxylic acid (5.7 g, 24 mmol) was refluxed in anisole (8 mL) until the evolution of carbon dioxide ceased. The reaction mixture was cooled to room temperature and filtered. The solid was washed with light petroleum ether (1×50 mL) and dried to obtain the title compound (4.10 g, 88% yield) as a light orange solid.

reactant | 5-Chloro-2-(methylsulfonyl)pyrimidine-4-carboxylic acid | 24 mmol, 5.7 g | ClC=1C(=NC(=NC1)S(=O)(=O)C)C(=O)O | C6H5ClN2O4S
reactant | carbon dioxide | C(=O)=O | CO2
solvent | anisole | 8 mL | C1(=CC=CC=C1)OC | C7H8O
product | 5-Chloro-2-(methylsulfonyl)pyrimidine | 4.10 g, 88% yield | ClC=1C=NC(=NC1)S(=O)(=O)C | C5H5ClN2O2S
